US07199244B2
Step B. Preparation of 2-(4-benzyloxy-pyrrolidin-2-yl)-N-(6-hydroxymethyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetamide.
4-Benzyloxy-2-[(6-hydroxymethyl-1,2,3,4-tetrahydro-naphthalen-1-ylcarbamoyl)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (480 mg. 97 mmol) was dissolved in 25 mL CH2Cl2 and treated with 10 mL TFA and stirred at RT for 15 min, then concentrated to afford the title compound as a colorless glass. (MS,395, M+H).

reactant | 4-Benzyloxy-2-[(6-hydroxymethyl-1,2,3,4-tetrahydro-naphthalen-1-ylcarbamoyl)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 97 mmol, 480 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)OCC1=CC=CC=C1)CC(NC1CCCC2=CC(=CC=C12)CO)=O | C29H38N2O5
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-benzyloxy-pyrrolidin-2-yl)-N-(6-hydroxymethyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetamide | C(C1=CC=CC=C1)OC1CC(NC1)CC(=O)NC1CCCC2=CC(=CC=C12)CO | C24H30N2O3
